US04340740
p-Toluenethiol (372 mg) was dissolved in 2 ml of anhydrous methanol, and 1.20 ml of a 2.5 M methanol solution of sodium methoxide was added at room temperature in an atmosphere or argon. The mixture was cooled to -15° C., and stirred. Then, 4 ml of an anhhdrous DMF solution containing 1.170 g of O-(p-toluenesulfonyl)-m-benzoylmandelonitrile was added over 10 minutes. With continued stirring, the mixture was gradually warmed, and in 30 minutes, the temperature rose to 0° C. At this time, 30 ml of water was added to the reaction mixture, and the mixture was extracted with 20 ml of methylene chloride three times. The extract was washed with 20 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; benzene) to afford 837 mg (yield 82%) of alpha-(p-tolylthio)(m-benzoylphenyl)acetonitrile as colorless crystals.

reactant | p-Toluenethiol | 372 mg | C1(=CC=C(C=C1)S)C | C7H8S
reactant | sodium methoxide | C[O-].[Na+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | O-(p-toluenesulfonyl)-m-benzoylmandelonitrile | 1.170 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C22H17NO4S
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 2.5 M | CO | CH4O
solvent | water | 30 ml | O | H2O
product | alpha-(p-tolylthio)(m-benzoylphenyl)acetonitrile | 837 mg, yield 82% | C1(=CC=C(C=C1)SC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C22H17NOS
